US05215982
Triphenylmethyl chloride (154.98 g) was added to a solution of triethylamine (154.97 ml) and 1-methoxycarbonylmethyl-5-aminopyrazole (71.88 g) in tetrahydrofuran (215.64 ml) and the mixture was stirred for three hours at ambient temperature. The reaction mixture was added to a mixture of water (300 ml) and ethyl acetate (200 ml). The organic layer was separated and dried over magnesium sulfate The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 1-methoxycarbonylmethyl-5-triphenylmethylaminopyrazole.

reactant | Triphenylmethyl chloride | 154.98 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 154.97 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methoxycarbonylmethyl-5-aminopyrazole | 71.88 g | COC(=O)CN1N=CC=C1N | C6H9N3O2
reactant | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 215.64 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-methoxycarbonylmethyl-5-triphenylmethylaminopyrazole | COC(=O)CN1N=CC=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23N3O2
